US05175301
1-(6-Chloro-3-pyridylmethyl)amino-1-hydrazino-2-nitroethylene) (Compound 51)
The reaction procedure of Example 3 was repeated except that 1-(6-chloro-3pyridylmethyl)amino-1-methylthio-2-nitroethylene and hydrazine hydrate were used in lieu of 1-methylthio-1-(3-pyridylmethyl)amino-2-nitroethylene and aqueous methylamine solution, respectively. The procedure gave the title compound as pale yellow crystals.

reactant | 1-(6-chloro-3pyridylmethyl)amino-1-methylthio-2-nitroethylene | ClC1=CC=C(C=N1)CNC(=C[N+](=O)[O-])SC | C9H10ClN3O2S
reactant | hydrazine hydrate | O.NN
reactant | 1-methylthio-1-(3-pyridylmethyl)amino-2-nitroethylene | CSC(=C[N+](=O)[O-])NCC=1C=NC=CC1 | C9H11N3O2S
reactant | methylamine | CN | CH5N
product | 1-(6-Chloro-3-pyridylmethyl)amino-1-hydrazino-2-nitroethylene | ClC1=CC=C(C=N1)CNC(=C[N+](=O)[O-])NN | C8H10ClN5O2
